US07427632B2
4-[(2R)-2-Benzyloxycarbonylamino-2-(isopropyl)ethoxymethyl]-piperidine-1-carboxylic acid tert-butyl ester
Using coupling method B, 4-[(2R)-2-amino-2-(isopropyl)-ethoxymethyl]piperidine-1-carboxylic acid tert-butyl ester (1.3 g, 4.5 mmol) and dibenzyl dicarbonate (1.5 g, 5.3 mmol) afforded 1.9 g (100%) of the title compound as a crude residue, which was used without further purification.

reactant | 4-[(2R)-2-amino-2-(isopropyl)-ethoxymethyl]piperidine-1-carboxylic acid tert-butyl ester | 4.5 mmol, 1.3 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC[C@@H](C(C)C)N | C16H32N2O3
reactant | dibenzyl dicarbonate | 5.3 mmol, 1.5 g | C(=O)(OCC1=CC=CC=C1)OC(=O)OCC1=CC=CC=C1 | C16H14O5
product | 4-[(2R)-2-Benzyloxycarbonylamino-2-(isopropyl)ethoxymethyl]-piperidine-1-carboxylic acid tert-butyl ester | 1.9 g, 100% | C(C)(C)(C)OC(=O)N1CCC(CC1)COC[C@@H](C(C)C)NC(=O)OCC1=CC=CC=C1 | C24H38N2O5
